US08067419B2
Acylation of 1-(4-benzyl-piperazin-1-yl)-(S)-2-(4-pentyl-benzylamino)-3-phenyl-propan-1-one (43.5 mg, 0.09 mmol) according to the procedure described for the preparation of Example 1 with 3,5-bis-trifluoromethyl-hydrocinnamic acid (28.33 mg, 0.099 mmol) gave 55.5 mg (82%) of N—[(S)-1-benzyl-2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-3-(3,5-bis-trifluoromethyl-phenyl)-N-(4-pentyl-benzyl)-propionamide. LC-MS: tR=1.05 min; [M+H]+=752.45.

reactant | 1-(4-benzyl-piperazin-1-yl)-(S)-2-(4-pentyl-benzylamino)-3-phenyl-propan-1-one | 0.09 mmol, 43.5 mg | C(C1=CC=CC=C1)N1CCN(CC1)C([C@H](CC1=CC=CC=C1)NCC1=CC=C(C=C1)CCCCC)=O | C32H41N3O
reactant | 3,5-bis-trifluoromethyl-hydrocinnamic acid | 0.099 mmol, 28.33 mg | FC(C=1C=C(CCC(=O)O)C=C(C1)C(F)(F)F)(F)F | C11H8F6O2
product | N—[(S)-1-benzyl-2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-3-(3,5-bis-trifluoromethyl-phenyl)-N-(4-pentyl-benzyl)-propionamide | 55.5 mg, 82% | C(C1=CC=CC=C1)[C@@H](C(=O)N1CCN(CC1)CC1=CC=CC=C1)N(C(CCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CC=C(C=C1)CCCCC | C43H47F6N3O2
